US04920128
Methyl 1-[2-(dimethylamino)ethyl]-7-methoxy-1H-pyrazolo[3,4-b]quinoline-3-carboxylate can be hydrolyzed by heating it with aqueous potassium carbonate to produce the corresponding acid, 1-[2-(dimethylamino)ethyl]-7-methoxy-1H-pyrazolo[3,4-b]quinoline-3-carboxylic acid.

reactant | Methyl 1-[2-(dimethylamino)ethyl]-7-methoxy-1H-pyrazolo[3,4-b]quinoline-3-carboxylate | CN(CCN1N=C(C=2C1=NC1=CC(=CC=C1C2)OC)C(=O)OC)C | C17H20N4O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(dimethylamino)ethyl]-7-methoxy-1H-pyrazolo[3,4-b]quinoline-3-carboxylic acid | CN(CCN1N=C(C=2C1=NC1=CC(=CC=C1C2)OC)C(=O)O)C | C16H18N4O3
